US05324743
A. 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylic Acid Sodium Salt
A solution of ethyl 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate in dioxane (3.5M solution) was treated with 2N NaOH (3.0 eqv) and stirred at room temperature. After stirring for 4 hours, the dioxane was removed from the reaction, and the remaining solution was diluted with water and acidified with 5N HC1. The resulting milky solution was extracted with EtOAc. The ethyl acetate extract was dried over MgSO4 and filtered. Solvent removal gave a white solid. The free acid was stirred in methanol and treated with 3 eqv. of NaOH(aq). The solvent was removed from the reaction and the product was purified by CHP-20 reverse phase chromatography eluting with a water/methanol gradient. The pure product was obtained in 68% yield by lyophilization of the product containing fractions.

reactant | ethyl 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate | C(C)(=O)C1=CC(=C(OCCCOC2=C(C3=C(CCC(O3)C(=O)OCC)C=C2)CCC)C=C1O)CC | C28H36O7
reactant | NaOH | 2N, 3.0 eqv | [OH-].[Na+]
reactant | NaOH | 3 eqv. | [OH-].[Na+]
solvent | dioxane | 3.5M | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylic Acid Sodium Salt | 68% yield | [Na+].C(C)(=O)C1=CC(=C(OCCCOC2=C(C3=C(CCC(O3)C(=O)[O-])C=C2)CCC)C=C1O)CC | InChI=1S/C26H32O7.Na/c1-4-7-19-22(10-8-18-9-11-23(26(29)30)33-25(18)19)31-12-6-13-32-24-15-21(28)20(16(3)27)14-17(24)5-2;/h8,10,14-15,23,28H,4-7,9,11-13H2,1-3H3,(H,29,30);/q;+1/p-1
